US06153652
Synthesis of N-[(3,5-diclorophenyl)acetyl]-L-alanine iso-butyl ester
Following General Procedure F' above, and using 3,5-dichlorophenylacetic acid (from Example C' above) and L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as a solid having a melting point of 115°-116° C. The reaction was monitored by tlc on silica gel (Rf=0.40 in 3% methanol/dichloromethane) and purification was by flash chromatography on silica gel using 3% methanol/dichloromethane as the eluant.

reactant | 3,5-dichlorophenylacetic acid | ClC=1C=C(C=C(C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC([C@@H](N)C)=O
product | N-[(3,5-diclorophenyl)acetyl]-L-alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C15H19Cl2NO3
